US09024041B2
Intermediate F1: (4-(tert-Butoxycarbonyl)aminonaphthalen-1-yl)(2-(tert-butoxy carbonyl)aminopyridin-4-yl)methanol
To a stirred solution of tert-butyl (4-bromonaphthalen-1-yl)carbamate (WO 2006/010082) (2.09 g, 6.48 mmol) in dry THF (50 mL) under N2 at −78° C. was added n-butyllithium (2.5 M in hexanes, 5.5 mL, 13.8 mmol) over 15 mins. The resulting mixture was maintained at −78° C. for 1.5 hr and then treated with a solution of tert-butyl (4-formylpyridin-2-yl)carbamate (WO 2004/000831) (960 mg, 4.30 mmol) in dry THF (10 mL) in one portion. The reaction mixture was stirred at −78° C. for a further 1 hr and then warmed to RT for 18 hr. The mixture was cooled to 0° C. and the reaction was quenched by the addition of MeOH (5.0 mL), then warmed to RT and partitioned between EtOAc and water. The aq layer was separated and was extracted twice with EtOAc and the combined organic extracts were washed with brine and then dried and evaporated in vacuo. The residue was purified by flash column chromatography (SiO2, 80 g, EtOAc in isohexane, 0-60%, gradient elution) to afford the title compound, Intermediate F1, as a pale yellow solid (1.13 g, 88% purity (LCMS), 49%); Rt 2.22 min (Method 2); m/z 466 (M+H)+ (ES+). The material so obtained was used in the next step without further purification.

reactant | tert-butyl (4-bromonaphthalen-1-yl)carbamate | 6.48 mmol, 2.09 g | BrC1=CC=C(C2=CC=CC=C12)NC(OC(C)(C)C)=O | C15H16BrNO2
reactant | n-butyllithium | 13.8 mmol, 2.5 M, 5.5 mL | C(CCC)[Li]
reactant | tert-butyl (4-formylpyridin-2-yl)carbamate | 4.30 mmol, 960 mg | C(=O)C1=CC(=NC=C1)NC(OC(C)(C)C)=O | C11H14N2O3
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (4-(tert-Butoxycarbonyl)aminonaphthalen-1-yl)(2-(tert-butoxy carbonyl)aminopyridin-4-yl)methanol | C(C)(C)(C)OC(=O)NC1=CC=C(C2=CC=CC=C12)C(O)C1=CC(=NC=C1)NC(=O)OC(C)(C)C | C26H31N3O5
